US05360809
1-(3-biphenylyl)-5-hydroxymethylbenzimidazole (61a).
To a solution of 1-(3-biphenylyl)-5-isopropoxycarbonylbenzimidazole (0.52 g, 1.6 mmol) in dry toluene (5 ml) under nitrogen at a temperature of -70° C. was added diisobutylaluminum hydride (1.1 ml of an 1.5M solution in toluene). After 1.5 h at -70° the reaction mixture was allowed to reach room temperature and was then poured in a slurry of 2M aqueous ammonium chloride and ice. After extractive workup with toluene the product was purified by chromatography on silica gel. Yield: 60 mg, 0.2 mmol, 12%. mp 130°-131° C.

reactant | 1-(3-biphenylyl)-5-isopropoxycarbonylbenzimidazole | 1.6 mmol, 0.52 g | C1(=CC(=CC=C1)N1C=NC2=C1C=CC(=C2)C(=O)OC(C)C)C2=CC=CC=C2 | C23H20N2O2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 2M | [Cl-].[NH4+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-biphenylyl)-5-hydroxymethylbenzimidazole | C1(=CC(=CC=C1)N1C=NC2=C1C=CC(=C2)CO)C2=CC=CC=C2 | C20H16N2O
